US07135502B1
A solution of N-[(5S)-3-amino-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide (0.712 g; 2 mmol) in ethanol (3.75 ml) and 36% hydrochloric acid (1.57 ml) was slowly added into a mixture of ice (6 ml) and 36% hydrochloric acid (1.57 ml). At 0° C. a solution of sodium nitrite (0.14 g; 2 mmol) in water (0.25 ml) was added. The mixture was stirred at 0° C. for 1 hour and then transferred into a separate flask containing a solution of copper(I) chloride (0.218 g; 2.2 mmol) in water (0.35 ml) and 36% hydrochloric acid (0.4 ml). The resulting mixture was stirred at 30° C. for 30 minutes and extracted with toluene/ethyl acetate (50/50). The organic phase was washed with water, dilute sodium hydroxide, and saturated sodium chloride solution, then dried and the volatiles were removed by evaporation. The residue was purified by flash chromatography eluting with ethyl acetate to give N-[(5S)-3-chloro-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide.

reactant | N-[(5S)-3-amino-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | 2 mmol, 0.712 g | NC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C20H24N2O4
reactant | sodium nitrite | 2 mmol, 0.14 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 1.57 ml | Cl | ClH
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
reactant | hydrochloric acid | 1.57 ml | Cl | ClH
solvent | ethanol | 3.75 ml | C(C)O | C2H6O
solvent | water | 0.25 ml | O | H2O
solvent | water | 0.35 ml | O | H2O
catalyst | copper(I) chloride | 2.2 mmol, 0.218 g | [Cu]Cl
product | N-[(5S)-3-chloro-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | Yield: 46% | ClC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C20H22ClNO4
